US05942516
n) 6-Hydroxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine
A solution of 6-benzyloxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine (3.41 g, 8.04 mmol), cyclohexene (35 ml), Pd(OH)2 (3.4 g) and ammonium formate (3.4 g) in ethanol (100 ml) was kept at reflux for 3 d. After cooling the mixture was filtered through celite and concentrated to an oil. (2.42 g, 90%).

reactant | 6-benzyloxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine | 8.04 mmol, 3.41 g | C(C1=CC=CC=C1)OCC1=C(C(=NC=N1)OCCC)C1=C(C=C(C=C1)OC)OCOC | C24H28N2O5
reactant | cyclohexene | 35 ml | C1=CCCCC1 | C6H10
reactant | ammonium formate | 3.4 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 | 3.4 g | [OH-].[OH-].[Pd+2]
product | 6-Hydroxymethyl-5-(2-methoxymethoxy-4-methoxyphenyl)-4-propoxy-pyrimidine | OCC1=C(C(=NC=N1)OCCC)C1=C(C=C(C=C1)OC)OCOC | C17H22N2O5
